US06060485
Preparation of 1-benzyl-4-[(2-ethoxy-3-methyl-2-phenylbutanoyl)amino]piperidin-1-oxide (the invention compound, Compound No. 16)
To a dissolved solution of N-(1-benzyl-4-piperidinyl)-2-ethoxy-3-methyl-2-phenylbutanamide (invention compound, Compound No. 1) (400 mg, 1.01 mmole) in chloroform (20 ml) was added 70% m-chloroperbenzoic acid (271 mg, 1.1 mmole). The mixture was stirred at room temperature for 3 days. After the reaction was completed, the reaction mixture was washed with a saturated aqueous sodium bicarbonate solution. The organic layer was dried over anhydrous sodium sulfate. The solvent was then removed under reduced pressure. The residue was purified by a silica gel column to obtain the invention compound (Compound No. 16, 316 mg, 77.0%) were obtained as colorless solid.

reactant | N-(1-benzyl-4-piperidinyl)-2-ethoxy-3-methyl-2-phenylbutanamide | 1.01 mmole, 400 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC(C(C(C)C)(C1=CC=CC=C1)OCC)=O | C25H34N2O2
reactant | m-chloroperbenzoic acid | 1.1 mmole, 271 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-benzyl-4-[(2-ethoxy-3-methyl-2-phenylbutanoyl)amino]piperidin-1-oxide | C(C1=CC=CC=C1)[N+]1(CCC(CC1)NC(C(C(C)C)(C1=CC=CC=C1)OCC)=O)[O-] | C25H34N2O3
